### PR TITLE
Add Erdős Problem 586 (covering systems with non-dividing moduli), link the formal proof

### LINKED ISSUE #6374: Erdős Problem 586
### What is the Erdős problem?

https://www.erdosproblems.com/586

Is there a covering system such that no two of the moduli divide each other?

Status: disproved (Balister–Bollobás–Morris–Sahasrabudhe–Tiba [BBMST22]). A formal proof exists in plby/lean-proofs (`Erdos586.erdos_586`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6374.

### What changed
Adds `FormalConjectures/ErdosProblems/586.lean`, using the existing `CoveringSystem ℤ`:
- `erdos_586` (`research solved`, `answer(False)`): there is no covering system whose moduli form an antichain under divisibility (Balister–Bollobás–Morris–Sahasrabudhe–Tiba [BBMST22]). Linked to plby/lean-proofs `Erdos586.erdos_586` (Codex and GPT-5.6 Sol; 18 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos586.erdos_586` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby works with a list of residue/modulus pairs; the bridge extracts the natural-number generators of the ideals of a `CoveringSystem ℤ` and lists them):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge586

open Ideal
open scoped Pointwise

theorem erdos_586_bridge : type_of% Erdos586.erdos_586 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨c, hc⟩
  let _ := c.fintypeIndex
  -- the natural-number modulus of each congruence class
  let m : c.ι → ℕ := fun i => (Submodule.IsPrincipal.generator (c.moduli i)).natAbs
  have hspan : ∀ i, c.moduli i = span {(m i : ℤ)} := fun i => by
    rw [Int.span_natAbs, span_singleton_generator]
  have hm1 : ∀ i, 1 < m i := fun i => by
    by_contra h
    push Not at h
    interval_cases hmi : m i
    · exact c.ne_bot i (by rw [hspan i, hmi]; simp)
    · exact c.ne_top i (by rw [hspan i, hmi]; simp)
  let e := Fintype.equivFin c.ι
  let f : Fin (Fintype.card c.ι) → ℤ × ℕ := fun k => (c.residue (e.symm k), m (e.symm k))
  let A : List (ℤ × ℕ) := List.ofFn f
  have hget : ∀ k : Fin A.length, A.get k = f (Fin.cast (List.length_ofFn) k) :=
    fun k => List.get_ofFn f k
  obtain ⟨i, j, hij, hdvd⟩ := Erdos586Plby.erdos_586 A
    (fun k => by rw [hget]; exact hm1 _)
    (fun z => by
      have hz : z ∈ ⋃ i, ({c.residue i} : Set ℤ) + (c.moduli i : Set ℤ) := by
        rw [c.unionCovers]; trivial
      obtain ⟨i, hi⟩ := Set.mem_iUnion.1 hz
      obtain ⟨r, hr, x, hx, rfl⟩ := Set.mem_add.1 hi
      rw [Set.mem_singleton_iff] at hr
      subst hr
      refine ⟨Fin.cast (List.length_ofFn).symm (e i), ?_⟩
      rw [hget]
      simp only [f]
      rw [Int.modEq_iff_dvd]
      have : x ∈ span {(m i : ℤ)} := by rw [← hspan i]; exact hx
      rw [mem_span_singleton] at this
      simpa using this)
  rw [hget, hget] at hdvd
  simp only [f] at hdvd
  set i' := e.symm (Fin.cast (List.length_ofFn) i)
  set j' := e.symm (Fin.cast (List.length_ofFn) j)
  have hne : i' ≠ j' := fun h => hij (by
    have := e.symm.injective h
    exact Fin.ext (congrArg Fin.val this :))
  apply hc hne
  rw [hspan, hspan, span_singleton_le_span_singleton]
  exact_mod_cast hdvd

#print axioms Erdos586Plby.erdos_586
#print axioms erdos_586_bridge

end Bridge586
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«586»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/586.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/586.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks!
